US05798311
N-(4-trifluoromethylphenyl)-3-(4-propoxyphenyl)-4-(N-propionyl-N-propylamino)-4,5,-dihydro-1H-pyrazole-1-carboxamide
To 2 g (4.5 mmole) of N-(4-trifluoromethylphenyl)-3-(4-propoxyphenyl)-4-(N-propylamino)-4,5,-dihydro-1H-pyrazole-1-carboxamide Example (586) dissolved in 25 ml of ethyl acetate and cooled to -5° C., was added 0.8 g (9 mmole) of pyridine and, finally, 0.8 g (9 mmole) of propionyl chloride was added. After 30 minutes, the reaction mixture was washed with water and brine, concentrated in vacuo, and chromatographed over silica gel using hexanes and ethyl acetate to yield 0.5 g of the desired compound, mp 152°-154° C.

reactant | N-(4-trifluoromethylphenyl)-3-(4-propoxyphenyl)-4-(N-propylamino)-4,5,-dihydro-1H-pyrazole-1-carboxamide | 4.5 mmole, 2 g | FC(C1=CC=C(C=C1)NC(=O)N1N=C(C(C1)NCCC)C1=CC=C(C=C1)OCCC)(F)F | C23H27F3N4O2
reactant | pyridine | 9 mmole, 0.8 g | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 9 mmole, 0.8 g | C(CC)(=O)Cl | C3H5ClO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-trifluoromethylphenyl)-3-(4-propoxyphenyl)-4-(N-propionyl-N-propylamino)-4,5,-dihydro-1H-pyrazole-1-carboxamide | 0.5 g | FC(C1=CC=C(C=C1)NC(=O)N1N=C(C(C1)N(CCC)C(CC)=O)C1=CC=C(C=C1)OCCC)(F)F | C26H31F3N4O3
